*
******************************************
*
*1N4ADAM
*
*
*Spice model for a made up diode used in
*my LTspice adding models tutorial at
*https://www.adamsiembida.com/
*
******************************************
*
.SUBCKT 1NADAM 1 2
*
*
R1 1 2 5E+9
D1 1 2 INTDIO
*
.MODEL INTDIO D
+ IS = 7.0E-9
+ N = 1.5
+ BV = 30
+ IBV = 0.00025
+ RS = 0.20
+ CJO = 5.0E-13
+ VJ = 0.80
+ M = 0.030
+ FC = 0.50
+ TT = 3.0E-9
.ENDS
*
