*
V1 in ref PWL(FILE=__INPUT_FILE__)
*
D1 in out   INTDIO
D2 0 in     INTDIO
D3 ref out  INTDIO
D4 0 ref    INTDIO
*
.MODEL INTDIO D
+ IS = 7.0E-9
+ N = 1.5
+ BV = 30
+ IBV = 0.00025
+ RS = 0.20
+ CJO = 5.0E-13
+ VJ = 0.80
+ M = 0.030
+ FC = 0.50
+ TT = 3.0E-9

.tran 5s
.save all
.end
